US05589474
(a) 2-(2-Aminophenylthio)-4-trifluoromethylbenzonitrile
2-Aminothiophenol (8.17 g, 65 mmol) was added to a mixture of sodium hydride (2.35 g of 80% dispersion, 1.2 eq) in dimethylformamide (DMF, 100 ml) at 0° C. under a nitrogen atmosphere. After stirring for 30 mins 2-fluoro-4-trifluoromethylbenzonitrile (11.68 g, 0.95 eq) was added and the reaction mixture stirred at 0° C. for 1 hr then kept at 10° C. overnight. The solvent was evaporated in vaccuo and the residue taken up in ether (100 ml) and washed with sodium bicarbonate solution (1M, 100 ml). The organic layer was separated and dried (sodium sulphate, Na2SO4), and evaporated to give a yellow solid. The title compound (12.5 g, m.p. 102°-104° C., Rf 0.67, hexane/EtOAc 2:1) was obtained in pure form by chromatography on silica eluting first with hexane/ethyl acetate (6:1) then (4:1).

reactant | 2-Aminothiophenol | 65 mmol, 8.17 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | sodium hydride | 2.35 g, 1.2 eq | [H-].[Na+]
reactant | 2-fluoro-4-trifluoromethylbenzonitrile | 11.68 g, 0.95 eq | FC1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3F4N
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(2-Aminophenylthio)-4-trifluoromethylbenzonitrile | 12.5 g | NC1=C(C=CC=C1)SC1=C(C#N)C=CC(=C1)C(F)(F)F | C14H9F3N2S
